US07358378B2
Tris(triethylsiloxy)ethane
The ester was added to a 0.5 M THF (200 mL, 0.1 mol) solution over 15 minutes and the mixture was stirred at this temperature for an additional 15 minutes to generate the lithium enolate. Triethylsilyl chloride (16.7 mL 0.1 mol) was added over 15 minutes to trap the enolate as the tris(triethylsiloxy)ethene product. The mixture was warmed to ambient temperature and the THF solvent was removed by vacuum rotary evaporation at 40° C. to precipitate out the lithium chloride. The mixture was taken up in 300 mL of hexanes and 5 mL of triethylamine and stirred for 5 minutes while the salt was allowed to settle. The supernatant was twice filtered through a pad of diatomaceous earth to give a clear solution. The solution was concentrated under rotary evaporation to give the lightly yellow colored oil product.

reactant | THF | 0.1 mol, 0.5 M, 200 mL | C1CCOC1 | C4H8O
reactant | Triethylsilyl chloride | 0.1 mol, 16.7 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | tris(triethylsiloxy)ethene | C(C)[Si](OC=C(O[Si](CC)(CC)CC)O[Si](CC)(CC)CC)(CC)CC | C20H46O3Si3
product | Tris(triethylsiloxy)ethane | C(C)[Si](OC(C)(O[Si](CC)(CC)CC)O[Si](CC)(CC)CC)(CC)CC | C20H48O3Si3
